US07691902B2
Preparation 15: 5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-2′-(isopropoxymethyl)-N,N-dimethylbiphenyl-4-carboxamide
5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(hydroxymethyl)-N,N-dimethylbiphenyl-4-carboxamide (46 mg, 0.10 mmol) and para-toluenesulfonic acid (38 mg, 0.2 mmol) were dissolved in isopropanol (1.0 mL) and irradiated in the microwave at 140° C. for 10 minutes. Volatiles were removed in vacuo and crude product was purified by reverse phase HPLC to afford the pure product (22 mg, 44%). ESI-MS m/z calc. 500.2, found 501.3 (M+1)+; retention time 3.30 minutes.

reactant | 5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(hydroxymethyl)-N,N-dimethylbiphenyl-4-carboxamide | 0.10 mmol, 46 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)N(C)C)CO | C27H26N2O5
reactant | para-toluenesulfonic acid | 0.2 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
product | 5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-2′-(isopropoxymethyl)-N,N-dimethylbiphenyl-4-carboxamide | 22 mg, 44% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)N(C)C)COC(C)C | C30H32N2O5
